US06939887B2
Synthesis of ethyl 2,4-diamino-6-(trifluoromethyl)phenyl(2,4-dichlorophenyl)carbamate
Ethyl 2,4-dichlorophenyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate (1.4027 g) was dissolved in methanol (80 ml), and to the solution was added titanium(III) chloride solution (27.731 g) under ice-cooling. The reaction mixture was stirred for 2 hours. To the reaction mixture was added saturated aqueous sodium bicarbonate solution (600 ml), and the mixture was extracted 2 times with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound (1.1863 g, 97%).

reactant | Ethyl 2,4-dichlorophenyl[2,4-dinitro-6-(trifluoromethyl)phenyl]carbamate | 1.4027 g | ClC1=C(C=CC(=C1)Cl)N(C(OCC)=O)C1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C16H10Cl2F3N3O6
reactant | sodium bicarbonate | 600 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 80 ml | CO | CH4O
catalyst | titanium(III) chloride | 27.731 g | [Cl-].[Ti+3].[Cl-].[Cl-]
product | ethyl 2,4-diamino-6-(trifluoromethyl)phenyl(2,4-dichlorophenyl)carbamate | 1.1863 g, 97% | NC1=C(C(=CC(=C1)N)C(F)(F)F)N(C(OCC)=O)C1=C(C=C(C=C1)Cl)Cl | C16H14Cl2F3N3O2
